US07129252B2
A mixture of ethyl 2-[N-(4-pyridyl-methyl)acetylamino]benzoate (300 mg) and 5 N NaOH (2 ml) in EtOH (20 ml) was stirred at RT for three hours. The solution was neutralized with 5 N HCl and evaporated to dryness. The residue was washed with methanol and filtered. The filtrate was evaporated and the residue was mixed with 4-[(methoxymethyl)cyclobutyl]phenylamine (1 eq), EDCI (1.25 eq), HOBt (1 eq) and DIEA (1.25 eq) in DMF (10 ml) and stirred overnight. The solution was mixed with dichloromethane (80 ml) and washed with water three times followed by brine, dried over Na2SO4 and evaporated, further purified by preparative TLC to give N-[2-(N-{4-[(methoxymethyl)-cyclopropyl]phenyl}carbamoyl)phenyl]-N-(4-pyridylmethyl)-acetamide

reactant | ethyl 2-[N-(4-pyridyl-methyl)acetylamino]benzoate | 300 mg | N1=CC=C(C=C1)CCC(=O)NC1=C(C(=O)OCC)C=CC=C1 | C17H18N2O3
reactant | NaOH | 5 N, 2 ml | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
reactant | 4-[(methoxymethyl)cyclobutyl]phenylamine | 1 eq | COCC1(CCC1)C1=CC=C(C=C1)N | C12H17NO
reactant | EDCI | 1.25 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.25 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | N-[2-(N-{4-[(methoxymethyl)-cyclopropyl]phenyl}carbamoyl)phenyl]-N-(4-pyridylmethyl)-acetamide | COCC1(CC1)C1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1)N(C(C)=O)CC1=CC=NC=C1 | C26H27N3O3
